US04427817
Bicyclo-[2,2,1]-hept-5-en-2-aldehyde-bis-(bicyclo-[2,2,1]-hept-5-en-2-yl-methyl)-acetal
122 g (1 mole) of bicyclo-[2,2,1]-hept-5-en-2-aldehyde and 248 g (2 moles) of bicyclo-[2,2,1]-hept-5-en-2-yl-methyl alcohol are dissolved in 600 ml of cyclohexane. A mixture of 3.5 g of p-toluene sulfonic acid and 2.6 g of quinoline are added to the resulting solution which is then boiled on a water separator until the removal of water has ceased. The product is then carefully washed until it shows a neutral reaction, dried with potassium carbonate and distilled. A colourless oil is obtained, solidifying into a wax-like substance.

reactant | bicyclo-[2,2,1]-hept-5-en-2-aldehyde | 1 mole, 122 g | C12C(CC(C=C1)C2)C=O | C8H10O
reactant | bicyclo-[2,2,1]-hept-5-en-2-yl-methyl alcohol | 2 moles, 248 g | C12C(CC(C=C1)C2)CO | C8H12O
reactant | p-toluene sulfonic acid | 3.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | quinoline | 2.6 g | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | cyclohexane | 600 ml | C1CCCCC1 | C6H12
product | Bicyclo-[2,2,1]-hept-5-en-2-aldehyde-bis-(bicyclo-[2,2,1]-hept-5-en-2-yl-methyl)-acetal | C12C(CC(C=C1)C2)COC(C2C1C=CC(C2)C1)OCC1C2C=CC(C1)C2 | C24H32O2
